US04064343
p-Methoxybenzyl 7-amino-3-methylenecepham-4-carboxylate hydrochloride
To a solution of 4.3 g. of p-methoxybenxyl 7-phenoxyacetamido-3-methylenecepham-4-carboxylate in 50 ml. of methylene chloride were added 880 mg. of dry pyridine and 2.3 g. of phosphorus pentachloride and the mixture was stirred at the reflux temperature for 3 hours. The reaction mixture was then cooled in an ice-water bath and 5 ml. of isobutanol were added. The mixture was stirred in the cold for several hours during which time 2.2 g. of the reaction product. p-methoxybenzy 7-amino-3-methylenecepham-4-carboxylate hydrochloride, precipitated from the mixture. The product was filtered and washed with cold methylene chloride and was dried in vacuo.

reactant | 7-phenoxyacetamido-3-methylenecepham-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)=C)C(=O)[O-])C1=O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | isobutanol | C(C(C)C)O | C4H10O
product | p-Methoxybenzyl 7-amino-3-methylenecepham-4-carboxylate hydrochloride | Cl.NC1[C@@H]2N(C(C(CS2)=C)C(=O)OCC2=CC=C(C=C2)OC)C1=O | InChI=1S/C16H18N2O4S.ClH/c1-9-8-23-15-12(17)14(19)18(15)13(9)16(20)22-7-10-3-5-11(21-2)6-4-10;/h3-6,12-13,15H,1,7-8,17H2,2H3;1H/t12?,13?,15-;/m1./s1
